US04443435
The Preparation of Methyl-S-(benzamidomethyl)thioglycolate
Methyl thioglycolate (2 g, 18.84 mmol) and chloromethylbenzamide (3.2 g, 18.84 mmol) was dissolved in 60 ml of dry toluene, and the clear solution was stirred for 18 hours at 25° C. under nitrogen at which time a TLC (10% EtOAc/CH2Cl2) showed that the reaction was complete. Solid materials were removed by filtration and the toluene was evaporated to give a pale yellow oil. Purification on silica gel (10% EtOAc/CH2Cl2) yielded a colorless oil that solidified on standing: mp 65°-68° C.; IR (KBr) 3280, 1730, 1620 cm-1 ; NMR (CDCl3) δ7.98-7.25 (m, 5, aryl), 4.77 (d, 2, --SCH2NH--), 3.77 (s, 3, --OCH3), 3.43 (s, 2, --SCH2C=O).

reactant | Methyl thioglycolate | 18.84 mmol, 2 g | C(CS)(=O)OC | C3H6O2S
reactant | chloromethylbenzamide | 18.84 mmol, 3.2 g | ClCC1=C(C(=O)N)C=CC=C1 | C8H8ClNO
reactant | EtOAc CH2Cl2 | CCOC(=O)C.C(Cl)Cl
reactant | KBr | [K+].[Br-]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl-S-(benzamidomethyl)thioglycolate | COC(CSCNC(C1=CC=CC=C1)=O)=O | C11H13NO3S
